US07217724B2
(4-{[tert-Butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)acetonitrile
Under nitrogen atmosphere, to a suspension of sodium hydride (60% dispersion in mineral oil, 750 mg, 18.8 mmol) in dimethyl-formamide (30 mL) is added dropwise a solution of 4-{[tert-butyl-(dimethyl)silyl]oxy}-1H-indole (2.32 g, 9.38 mmol) in dimethylformamide (10 mL)-with stirring under ice-cooling, and the mixture is stirred at the same temperature for 15 minutes. To the mixture is added dropwise acetonitrile bromide (1.96 mL, 28.1 mmol), and the mixture is stirred at room temperature for 15 hours. The reaction mixture is diluted with a mixture of a saturated brine and water (1:1, 400 mL), and the mixture is extracted with ethyl acetate (2×100 mL). The combined organic layer is washed with a mixture of a saturated brine and water (1:1, 100 mL), dried over anhydrous potassium carbonate, and filtered. The filtrate is concentrated under reduced pressure, and the obtained residue is purified by silica gel column (ethyl acetate:hexane=10:1→5:1) to give the title compound as a pale brown solid (803 mg, yield: 39%).

reactant | sodium hydride | 18.8 mmol, 750 mg | [H-].[Na+]
reactant | 4-{[tert-butyl-(dimethyl)silyl]oxy}-1H-indole | 9.38 mmol, 2.32 g | C(C)(C)(C)[Si](OC1=C2C=CNC2=CC=C1)(C)C | C14H21NOSi
reactant | acetonitrile bromide | 28.1 mmol, 1.96 mL | [Br-].C(C)#N
solvent | dimethyl-formamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | water | 400 mL | O | H2O
product | (4-{[tert-Butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)acetonitrile | 803 mg, yield: 39% | [Si](C)(C)(C(C)(C)C)OC1=C2C=CN(C2=CC=C1)CC#N | C16H22N2OSi
